US07432287B2
The 2,5-bismethanesulfonylpyridine was obtained by reacting 2,5-dibromopyridine with sodium thiomethoxide to obtain 2,5-bis-methylthiopyridine, and then oxidizing it with metachloroperbenzoic acid. The reaction between 2,5-dibromopyridine and sodium methoxide and the oxidation of 2,5-bis-methylthiopyridine with metachloroperbenzoic acid may be carried out according to ordinary methods.

reactant | 2,5-bismethanesulfonylpyridine | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | sodium thiomethoxide | C[S-].[Na+]
product | 2,5-bis-methylthiopyridine | CSC1=NC=C(C=C1)SC | C7H9NS2
